US06949571B2
3-(2-Cyanophenyl)-5-(2-hydroxymethylthiophen-3-yl)-1-phenyl-1,2-dihydropyridin-2-one
Sodium triacetoxyborohydride (10 mg) was added to a solution of 10 mg of 3-(2-cyanophenyl)-5-(2-formylthiophen-3-yl)-1-phenyl-1,2-dihydropyridin-2-one in 2 ml of tetrahydrofuran and the mixture was stirred for 1 hour. A 10% aqueous solution of sodium carbonate was added thereto, the mixture was extracted with ethyl acetate and the organic layer was washed with water and a saturated saline solution and dried over magnesium sulfate. The solvent was concentrated in vacuo and the residue was purified by an NH silica gel column chromatography to give 8 mg of the title compound as white powder.

reactant | Sodium triacetoxyborohydride | 10 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-(2-cyanophenyl)-5-(2-formylthiophen-3-yl)-1-phenyl-1,2-dihydropyridin-2-one | 10 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=C(SC=C1)C=O)C1=CC=CC=C1)=O | C23H14N2O2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-(2-Cyanophenyl)-5-(2-hydroxymethylthiophen-3-yl)-1-phenyl-1,2-dihydropyridin-2-one | 8 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=C(SC=C1)CO)C1=CC=CC=C1)=O | C23H16N2O2S
